US05665718
1.64 g (5 mmol) of 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature overnight with 1.62 g (12.5 mmol) of diisobutylamine and 20 ml of N,N-dimethylformamide. After evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 1.63 g (77%) of 3-(5-diisobutylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 138°-140°, which was converted into the hydrochloride of m.p. 177°-180°.

reactant | 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 5 mmol, 1.64 g | ClCC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | diisobutylamine | 12.5 mmol, 1.62 g | C(C(C)C)NCC(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(5-diisobutylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.63 g, 77% | C(C(C)C)N(CC(C)C)CC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C23H30N6O2
